US06313312B1
(E)-3-(3-Cvanophenyl)-2-butenoic acid
To a mixture of lithium hydroxide monohydrate (10.8 g, 0.26 mol) in tetrahydrofuran (100 ml) and water (100 ml) was added crude ethyl (E)-3-(3-cyanophenyl)-2-butenoate (Preparation 31) in tetrahydrofuran (150 ml). The resultant mixture was made homogeneous by the addition of methanol (approx. 50 ml), and then stirred at room temperature for 16 h. The mixture was concentrated in vacuo and acidified with 2N hydrochloric acid, following which a solid precipitated. The solid was collected by suction filtration, washing with cold water. The solid was then dried and recrystallised from acetonitrile. From the first crop, 15.8 g (49% over 2 steps) of the pure E-isomer was isolated.

reactant | lithium hydroxide monohydrate | 0.26 mol, 10.8 g | O.[OH-].[Li+]
reactant | ethyl (E)-3-(3-cyanophenyl)-2-butenoate | C(#N)C=1C=C(C=CC1)/C(=C/C(=O)OCC)/C | C13H13NO2
reactant | methanol | approx. 50 ml | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (E)-3-(3-Cvanophenyl)-2-butenoic acid | C(#N)C=1C=C(C=CC1)/C(=C/C(=O)O)/C | C11H9NO2
